data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4888,"CC(=O)OC1(C(C)=O)CCC2C3CC=C4CC([OH:1])CCC4(C)C3CCC21C.CC(C)[O-].CC(C)[O][Al:2]([O]C(C)C)[O]C(C)C|(1, 2)"
train,pmechdb_split_0,0,2529,"CC(=O)O.CN(C)C1=CC=[N+]([C:1](C)=[O:2])C=C1.C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3581,"CCC[CH:1]=[O:2].[Br][Mg:3][C:4]1=CC=CC=C1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2393,"CC(C)[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.C[C+:5]=O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,1358,"OCCO[C:1]1([OH2+:2])CCCCC1|((1, 2), 2)"
train,pmechdb_split_0,0,4897,"C[C+](C)C.O=C(NCC1=CC=CC=C1)C(CC1=CC=C(OCC2=CC=CC=C2)C=C1)[NH2+:1][C:2](=O)[O-:3].O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3257,"CCOC1=C(N2CC[N+:1](CCCCN3N=C(C)C(C(C)=O)=C(N)C3=O)([H:2])CC2)C=CC=C1.CN(C)C=O.O=C([O-])[O-:3].[Br-].[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,678,"CCOCC.COC[O+:1](C(CCOCC1=CC=CC=C1)CC1=C(OC)C2=CC=CC(OC)=C2C(OC)=C1)[H:2].C[O:3][B-](F)(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5752,"C1=CC=C(C2(C3=CC=CC=C3)CC[CH:1]=[C:2]2C2=CC=CC=C2)C=C1.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,38,"CCOCC(=O)NC1=C(NCC(C)(C)O)C2=C(C=CC=C2)[N-:1][C:2]1([NH3+])[Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9856,"CCO[C:1](C)=[O:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1906,"C1=CC=C(C[NH2:1])C=C1.C1CCC[C:2](=[O:3])CCC1.CC1=CC=C(S(=O)(=O)O)C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9558,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C2=C(C=CC=C2)C=C[C+:4]1Br|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,4050,"CS(C)=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8631,"C=CC[NH2:1].COC1=CC=C([CH:2]=[O:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2945,"C1=NN=N[N:1]1[H:2].CO[PH](OC)(N1C=NN=N1)[N:3](C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7768,"CC(C)(C)[O-:1].CC=N[N:2](S(=O)(=O)C1=CC=C(C)C=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3083,"CC[O:1][C:2]1([O-:3])CCCO1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,677,"CC(=O)OC(C)=O.COC1=C(C=O)C(O)=CC=C1.O=C(NCC(=O)[O:1][H:2])C1=CC=CC=C1.O=C([O][K])[O-:3].[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3798,"CC(C)(C)C(=O)[O-].CC12COC(=O)C1(C)C(O[Si](C)(C)C(C)(C)C)C=C2CO.CCO[C:1](C)([OH+:2]CC)[O:3]CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7089,"C1=CC=CC=C1.C1CC[C:1]([N:2]2CCOCC2)([OH:3])C1.C1COCCN1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,10144,"CO[Si-:1](C)(C)(C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7842,"C[C:1](Br)=[CH2:2].O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,5987,"N#CC(N)=C(C#N)[NH-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1799,"CC1=C(CCO)SC=[N+]1CC1=CC=C(CC[N+]2=C(C(CCCOCC3=CC=CC=C3)[O-:1])SC(CCO)=C2C)C=C1.CCO.CC[N+:2](CC)(CC)[H:3].O=C(C=CC1=CC=CC=C1)C1=CC=CC=C1.O=C(C=CC1=CC=CO1)C1=NC=CC=C1.[Br-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4588,"CC(C)[CH2][AlH:1][CH2]C(C)C.CCCC(CCC)=[O:2]|(2, 1)"
train,pmechdb_split_0,0,5869,"CCCCC[C:1](=[OH+:2])[O:3][CH2:4][CH:5]=[C:6](C)C(C)C|((6, 5), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5158,"CCN[C:1](=[CH:2]CSCC)[O-:3].[H:4][OH2+:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8408,"O=[N+]([O-])C1=CC=CC2=C1C=C[CH+:1][C:2]2(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4939,"C=C[CH2:1][O:2]P(=O)(Cl)Cl.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8164,"CC12CCC(C1)C(C)(C)[C:1]2(C1=C(N)C=C(Cl)C=C1)[OH+:2]C.[Cl-]|((1, 2), 2)"
train,pmechdb_split_0,0,2593,"C[CH:1]([NH:2]C)[I:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2152,"CO[P-:1]1(=O)(OC)[CH2:2][CH:3](C)[O:4]1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9118,"CCOC1=CC(C)[C:1]2([H:2])CCC[N+:3](C(=O)OCC3=CC=CC=C3)=[C:4]12.O=C(C(F)(F)F)[O-:5]|(5, 2);((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3478,"C1=C[C:1](=[O:2])[CH:3]([H:4])CC1.C1CCC2=[N:5]CCCN2CC1.O=CC1CCCCC1|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1930,"C[CH:1]([N+](=O)[O-])[H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7070,"[CH2:1]=[OH+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,989,"C=CC(C)=O.CC(C)C(=O)C(=CC1=CC=CC=C1)C(=O)NC1=CC=CC=C1.CC1=CC=C(C=O)C=C1.CCO.CC[N+]1=[C:1]([H:2])SC(CCO)=C1C.CC[N:3](CC)CC.COC1=CC(C=O)=CC(OC)=C1OC.COC1=CC=C(C=CC(=O)C2=CC=C(OC)C=C2)C=C1.COC1=CC=C(C=O)C=C1.O=CC1=CC=C(F)C=C1.O=CC1=CC=CC=C1.[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5162,"C[NH:1][CH:2]=[CH:3]CO.[H:4][OH2+:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4724,"CC(=O)[O:1][H:2].CC1(C)C2=C(C=C(Br)C(N3CCN(C4([OH:3])COC4)CC3)=C2)C(=O)C2=C1NC1=CC=CC=C12.CO.[BH3-]C#N|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8559,"C=C1CC(C=C(C)Br)OC(CC[OH:1])C1.CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[S-]C1=NN=NN1C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,2515,"CC(C)(C[C:1](=[CH2:2])[O-:3])[CH:4]=[O:5].O|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5907,"C[C:1](C)=[O+:2]CCO.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8897,"CCCC[O:1][C:2](CC(C)C)(C1=CC=CC=C1)[O-:3].[Li+]|(3, 2);((2, 1), 1)"
